US08975256B2
7-[2-Methoxy-4-(2-methylbenzoyloxy)phenyl]-8-(2-methoxy-5-nitrophenoxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 22)
A mixture of 8-hydroxymethyl-7-[2-methoxy-4-(2-methylbenzoyloxy)phenyl]-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 23, 40.1 mg, 0.0898 mmol), 2-methoxy-5-nitrophenol (22.8 mg, 0.135 mmol), and tri n-butylphosphine (33.7 μL, 0.135 mmol) was dissolved in anhydrous tetrahydrofuran (1 mL), 1,1′-(azodicarbonyl)dipiperidine (34.0 mg, 0.135 mmol) was added thereto, and then the mixture was stirred at room temperature. After 20 minutes, 2-methoxy-5-nitrophenol (23.1 mg, 0.137 mmol), tri n-butylphosphine (33.7 μL, 0.135 mmol), and 1,1′-(azodicarbonyl)dipiperidine (33.9 mg, 0.134 mmol) were added thereto, and after 80 minutes, 2-methoxy-5-nitrophenol (22.9 mg, 0.135 mmol), tri-n-butylphosphine (33.7 μL, 0.135 mmol), and 1,1′-(azodicarbonyl)dipiperidine (34.0 mg, 0.135 mmol) were added further. The stir was stopped 3 hours later and the reaction mixture was concentrated. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (22.1 mg) as a pale yellow amorphous product. (Yield 41%)

reactant | 8-hydroxymethyl-7-[2-methoxy-4-(2-methylbenzoyloxy)phenyl]-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.0898 mmol, 40.1 mg | OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=C(C=C1)OC(C1=C(C=CC=C1)C)=O)OC | C26H26N2O5
reactant | 2-methoxy-5-nitrophenol | 0.135 mmol, 22.8 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | tri n-butylphosphine | 0.135 mmol, 33.7 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.135 mmol, 34.0 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 2-methoxy-5-nitrophenol | 0.137 mmol, 23.1 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | tri n-butylphosphine | 0.135 mmol, 33.7 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.134 mmol, 33.9 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 2-methoxy-5-nitrophenol | 0.135 mmol, 22.9 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | tri-n-butylphosphine | 0.135 mmol, 33.7 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.135 mmol, 34.0 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 7-[2-Methoxy-4-(2-methylbenzoyloxy)phenyl]-8-(2-methoxy-5-nitrophenoxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 22.1 mg, Yield 41% | COC1=C(C=CC(=C1)OC(C1=C(C=CC=C1)C)=O)C1=CC=C2NC(C(NC2=C1COC1=C(C=CC(=C1)[N+](=O)[O-])OC)=O)(C)C | C33H31N3O8
